US08084481B2
N-[2-(4-chlorophenyl)-2-oxoethyl]-N′-cyclopropylurea
1000 mg (4.853 mmol) of 2-amino-1-(4-chlorophenyl)ethanone hydrochloride are placed in 20 ml dichloromethane, cooled to 0° C. and treated dropwise with a solution of 363 mg (4.367 mmol) of cyclopropyl isocyanate in 2 ml dichloromethane. It is stirred a further 10 mins at 0° C. and then a solution of 627 mg (4.853 mmol) of N,N-diisopropylethylamine in 4 ml dichloromethane is added dropwise. After two hours' stirring at room temperature the reaction mixture is evaporated and the crude product purified by flash chromatography on silica gel (eluent: dichloromethane/methanol 100:1). 1000 mg (73% of theory) of the target compound are obtained.

reactant | 2-amino-1-(4-chlorophenyl)ethanone hydrochloride | 4.853 mmol, 1000 mg | Cl.NCC(=O)C1=CC=C(C=C1)Cl
reactant | cyclopropyl isocyanate | 4.367 mmol, 363 mg | C1(CC1)N=C=O | C4H5NO
reactant | N,N-diisopropylethylamine | 4.853 mmol, 627 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | N-[2-(4-chlorophenyl)-2-oxoethyl]-N′-cyclopropylurea | ClC1=CC=C(C=C1)C(CNC(=O)NC1CC1)=O | C12H13ClN2O2
